US09120749B2
cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-((1-(piperidin-4-yl)-1H-pyrazol-4-yl)amino)quinolin-3-yl)methanone
Following general procedure A-2, tert-butyl 4-(4-((3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate (36 mg, 0.058 mmol) was reacted with TFA (2 mL) to afford the desired product (21.5 mg, 41%) as a yellow solid. 1H NMR (500 MHz, MeOD+TFA-d) δ 9.48 (br s, 1H), 8.22 (d, J=9.2 Hz, 1H), 8.01 (d, J=8.4 Hz, 2H), 7.69 (s, 1H), 7.39 (br s, 2H), 4.68-4.58 (m, 1H), 3.57 (dt, J=13.2, 3.8 Hz, 2H), 3.27-3.17 (m, 2H), 2.88 (br s, 1H), 2.36-2.25 (m, 4H), 1.41-1.10 (m, 4H). ESI MS m/z 522 [C27H25Cl2N5O2+H]+; HPLC>99% (AUC), tR=9.75 min.

reactant | tert-butyl 4-(4-((3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.058 mmol, 36 mg | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C1=CC(=C(C(=C1)Cl)O)Cl | C32H33Cl2N5O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-((1-(piperidin-4-yl)-1H-pyrazol-4-yl)amino)quinolin-3-yl)methanone | 21.5 mg, 41% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=NN(C1)C1CCNCC1)C1=CC(=C(C(=C1)Cl)O)Cl | C27H25Cl2N5O2
